US08461164B2
A solution of 2-fluoro-4-methoxybenzaldehyde (5.0 g, 33 mmol) and ammonium acetate (1.0 g, 13 mmol) in nitromethane (40 mL) was heated on a steam bath for 2.5 h. The reaction mixture was concentrated under reduced pressure, and the sticky residue was partitioned between CH2Cl2 and H2O. The organic layer was washed with half-saturated brine, dried (MgSO4), filtered, and concentrated. The residue was triturated in hexane and the solid was filtered and washed with hexane and dried to give 2-fluoro-4-methoxy-1-((E)-2-nitrovinyl)benzene (5.57 g) as an orange solid: mp 80-82° C.; 1H NMR (CDCl3): δ 8.02 (d, J=13.5 Hz, 1H), 7.66 (d, J=13.5 Hz, 1H), 7.43 (m, 1H), 6.68-6.80 (m, 2H), 3.87 (s, 3H); EIMS m/z 197 ([M]+). This material was used in the next step without additional purification.

reactant | 2-fluoro-4-methoxybenzaldehyde | 33 mmol, 5.0 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | ammonium acetate | 13 mmol, 1.0 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 40 mL | [N+](=O)([O-])C | CH3NO2
product | 2-fluoro-4-methoxy-1-((E)-2-nitrovinyl)benzene | 5.57 g | FC1=C(C=CC(=C1)OC)\C=C\[N+](=O)[O-] | C9H8FNO3
